US05998433
b) Synthesis of 2-(4-benzyloxy-3-methoxyphenyl)-1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)ethan-1-one
To a solution of 0.260 g (0.689 mmol) of 2-(4-benzyloxy-3-methoxyphenyl)-1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)ethan-1-one in 20 ml of acetic acid, 0.093 ml (1.03 mmol) of 50% aqueous dimethylamine and 0.084 ml (1.03 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform to chloroform/methanol=50/1 to 25/1) to yield the desired product.

reactant | 2-(4-benzyloxy-3-methoxyphenyl)-1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)ethan-1-one | 0.689 mmol, 0.260 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)N1CC2=C(CC1)OC=C2)OC | C23H23NO4
reactant | dimethylamine | 1.03 mmol, 0.093 ml | CNC | C2H7N
reactant | formaldehyde | 1.03 mmol, 0.084 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-(4-benzyloxy-3-methoxyphenyl)-1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)ethan-1-one | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)N1CC2=C(CC1)OC(=C2)CN(C)C)OC | C26H30N2O4
